US04355037
4-(2,4-Difluorobenzoyl)-1-allylpiperidine oxime hydrochloride
A suspension of 4.80 g of 4-(2,4-difluorobenzoyl) piperidine oxime, 2.7 g of allyl bromide, 2.7 g of ammonium chloride and some crystals of potassium iodide in 50 ml of dimethylformamide was stirred under nitrogen at 85°-90° for 5 hrs. The reaction mixture was cooled, diluted with 30 ml of ethanol and added to 1000 ml of half saturated aqueous sodium chloride solution, prepared by diluting saturated sodium chloride solution with an equal volume of water. After 16 hrs, the solid was washed with water and dried. The solid was dissolved in 60 ml of ethanol and 1 ml of conc hydrochloric acid. After heating to 50°, the solvents were evaporated in vacuo. Recrystallization of the residue from isopropanol-ether gave 2.63 g (43.5%) of product, mp, 239°.

reactant | 4-(2,4-difluorobenzoyl) piperidine oxime | 4.80 g | FC1=C(C(C2CCNCC2)=NO)C=CC(=C1)F | C12H14F2N2O
reactant | allyl bromide | 2.7 g | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 2.7 g | [Cl-].[NH4+]
reactant | potassium iodide | [I-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2,4-Difluorobenzoyl)-1-allylpiperidine oxime hydrochloride | 2.63 g, 43.5% | Cl.FC1=C(C(C2CCN(CC2)CC=C)=NO)C=CC(=C1)F | InChI=1S/C15H18F2N2O.ClH/c1-2-7-19-8-5-11(6-9-19)15(18-20)13-4-3-12(16)10-14(13)17;/h2-4,10-11,20H,1,5-9H2;1H
